US06861444B2
2,3-Dimethyl-6-methoxy-1H-indole (2.0 g; synthesized by the process reported by Ockenden et al., J. Chem. Soc., pp. 3175-3180 (1957)) was mixed with pyridine hydrochloride (7.91 g; mfd. by KANTO KAGAKU). The resulting mixture was stirred at 200° C. for 15 minutes and then cooled. After adding water (100 mL), the mixture was then extracted with ethyl acetate (100 mL). The organic layer was dried over anhydrous sodium sulfate (10 g). The solvent was distilled off under reduced pressure to yield crude 2,3-dimethyl-6-hydroxy-1H-indole (1.86 g) as a gray crystal.

reactant | 2,3-Dimethyl-6-methoxy-1H-indole | CC=1NC2=CC(=CC=C2C1C)OC | C11H13NO
reactant | pyridine hydrochloride | 7.91 g | Cl.N1=CC=CC=C1
solvent | water | 100 mL | O | H2O
product | 2,3-dimethyl-6-hydroxy-1H-indole | 1.86 g | CC=1NC2=CC(=CC=C2C1C)O | C10H11NO
